US06093818
After 3.0 g of 2-(4-chlorophenyl)-4-cyano-5-trifluoromethylpyridazin-3-one (The present compound 1-15) is dissolved in 30 mL of anhydrous tetrahydrofuran, 4.0 mL of methylmagnesium bromide (3.0M diethyl ether solution) is dropped to the tetrahydrofuran solution at 0° C. and stirred for hour. Afterwards, the reaction solution is poured into diluted hydrochloric acid, and extracted with ethyl acetate. The organic layer is washed, in order, with water and aqueous saturated sodium chloride. After drying over anhydrous magnesium sulfate and concentrated, the residue is subjected to silica gel column chromatography to afford 2-(4-chlorophenyl)-4-methyl-5-trifluoromethylpyridazin-3-one.

reactant | 2-(4-chlorophenyl)-4-cyano-5-trifluoromethylpyridazin-3-one | 3.0 g | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)C#N)C(F)(F)F | C12H5ClF3N3O
reactant | methylmagnesium bromide | 3.0M, 4.0 mL | C[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-(4-chlorophenyl)-4-methyl-5-trifluoromethylpyridazin-3-one | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)C)C(F)(F)F | C12H8ClF3N2O
